US07351833B2
[Allyl-(5,6-dichloro-pyridin-3-yl)-amino]-acetaldehyde (Compound 6G)
A solution of allyl-(5,6-dichloro-pyridin-3-yl)-(2,2-dimethoxy-ethyl)-amine (57.2 g) in tetrahydrofuran (443 g) was cooled to 10° C. A solution of concentrated hydrochloric acid (136 g) in water (114 g) was slowly added, maintaining the temperature below 20° C. The reaction was then stirred at 15° C. for about 4 hours. Then dichloromethane (570 g) and water (430 g) were added and the layers separated. The organic layer was washed with 5% aqueous sodium bicarbonate (453 g), and then washed twice with water (430 g). The organic layer was concentrated and the residue dissolved in dichloromethane (580 g).

reactant | allyl-(5,6-dichloro-pyridin-3-yl)-(2,2-dimethoxy-ethyl)-amine | 57.2 g | C(C=C)N(CC(OC)OC)C=1C=NC(=C(C1)Cl)Cl | C12H16Cl2N2O2
reactant | hydrochloric acid | 136 g | Cl | ClH
reactant | dichloromethane | 570 g | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 443 g | O1CCCC1 | C4H8O
solvent | water | 114 g | O | H2O
solvent | water | 430 g | O | H2O
product | [Allyl-(5,6-dichloro-pyridin-3-yl)-amino]-acetaldehyde | C(C=C)N(C=1C=NC(=C(C1)Cl)Cl)CC=O | C10H10Cl2N2O
